US06838463B2
In 5 ml of N,N-dimethylformamide were dissolved 246 mg of 4-chloro-6-(3-fluorophenyl)pyrimidine and 119 mg of 3-pentyn-2-ol, to which 57 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 8 hours. The reaction mixture was then poured into water and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The resulting residue was subjected to silica gel column chromatography to give 200 mg of 4-(3-fluorophenyl)-6-(1-methyl-2-butynyloxy)pyrimidine (the present compound (173)).

reactant | 4-chloro-6-(3-fluorophenyl)pyrimidine | 246 mg | ClC1=NC=NC(=C1)C1=CC(=CC=C1)F | C10H6ClFN2
reactant | 3-pentyn-2-ol | 119 mg | CC(C#CC)O | C5H8O
reactant | sodium hydride | 57 mg | [H-].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(3-fluorophenyl)-6-(1-methyl-2-butynyloxy)pyrimidine | 200 mg | FC=1C=C(C=CC1)C1=NC=NC(=C1)OC(C#CC)C | C15H13FN2O
